US08609656B2
1-(4-{3-[3-(4-methylpiperazin-1-ylmethyl)-5-(trifluoromethyl)phenyl]ureido}-phenyl)-1H-imidazo[4,5-c]pyridine-4-carboxamide (Table 2, Compound No. 33)
In 1 mL of dimethyl sulfoxide, 40 mg (0.07 mmol) of 1-[4-(4-cyano-imidazo[4,5-c]pyridin-1-yl)phenyl]-3-[3-(4-methylpiperazin-1-ylmethyl)-5-(trifluoromethyl)phenyl]urea was dissolved, and 40 μL (0.35 mmol) of a 30% hydrogen peroxide aqueous solution and 21 mg (0.15 mmol) of potassium carbonate were added thereto and the mixture solution was stirred at 50° C. for one hour. The reaction solution was partitioned between ethyl acetate and water, and the organic layer was washed with water and a saturated sodium chloride solution in the order named and concentrated under reduced pressure. The crude product was purified by a silica gel column (dichloromethane:methanol=10:1) to obtain 19 mg (45%) of a target product as a white solid.

reactant | 1-[4-(4-cyano-imidazo[4,5-c]pyridin-1-yl)phenyl]-3-[3-(4-methylpiperazin-1-ylmethyl)-5-(trifluoromethyl)phenyl]urea | 0.07 mmol, 40 mg | C(#N)C1=NC=CC2=C1N=CN2C2=CC=C(C=C2)NC(=O)NC2=CC(=CC(=C2)C(F)(F)F)CN2CCN(CC2)C | C27H25F3N8O
reactant | hydrogen peroxide | OO | H2O2
reactant | potassium carbonate | 0.15 mmol, 21 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 1 mL | CS(=O)C | C2H6OS
product | 1-(4-{3-[3-(4-methylpiperazin-1-ylmethyl)-5-(trifluoromethyl)phenyl]ureido}-phenyl)-1H-imidazo[4,5-c]pyridine-4-carboxamide | 19 mg, 45% | CN1CCN(CC1)CC=1C=C(C=C(C1)C(F)(F)F)NC(NC1=CC=C(C=C1)N1C=NC=2C(=NC=CC21)C(=O)N)=O | C27H27F3N8O2
